US08383821B2
3′-Fluoro-5′-(((4-phenylpiperidin-4-yl)methoxy)methyl)biphenyl-4-carbonitrile.
tert-Butyl 4-((3-bromo-5-fluorobenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate (100.0 mg, 0.21 mmol), 4-cyanophenylboronic acid (93 mg, 0.63 mmol), and tetrakis(triphenylphosphine) palladium(0) (33 mg, 0.02 mmol) were combined in dry tetrahydrofuran (3 mL) in a microwave tube and sealed. After flushing with nitrogen, 0.7 mL of a 1 N potassium hydroxide aqueous solution was introduced. The mixture was heated at 120° C. for 1 h via microwave. After cooling to room temperature, the reaction mixture was concentrated and treated with a trifluoroacetic acid/methylene chloride mixture (1:1, 2 mL) for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol and concentrated to afford 48 mg (46%). 1H-NMR (CDCl3, 500 MHz) δ 7.72 (s, 1H), 7.70 (s, 1H), 7.57 (s, 1H), 7.56 (s, 1H), 7.31-7.38 (m, 4H), 7.19-7.22 (m, 1H), 7.11-7.13 (m, 1H), 7.08 (s, 1H), 6.84-6.86 (s, 1H), 4.40 (s, 2H), 3.45 (s, 2H), 2.89-2.93 (m, 2H), 2.73-2.78 (m, 2H), 2.17-2.20 (m, 2H), 1.88-1.94 (m, 2H). 13C-NMR (CDCl3, 126 MHz) δ 163.3 (d, J=247.6 Hz), 144.2, 142.5, 141.2, 132.7, 128.4, 127.8, 127.3, 126.2, 121.3, 118.7, 114.2, 114.0, 113.1, 111.7, 80.1, 72.3, 42.7, 41.9, 33.6. Mass spec.: 401.28 (MH)+. Accurate mass spec.: m/z 401.2026 [MH]+, Δ=0.8 ppm.

reactant | tert-Butyl 4-((3-bromo-5-fluorobenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.21 mmol, 100.0 mg | BrC=1C=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C1)F | C24H29BrFNO3
reactant | 4-cyanophenylboronic acid | 0.63 mmol, 93 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.02 mmol, 33 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3′-Fluoro-5′-(((4-phenylpiperidin-4-yl)methoxy)methyl)biphenyl-4-carbonitrile | FC=1C=C(C=C(C1)COCC1(CCNCC1)C1=CC=CC=C1)C1=CC=C(C=C1)C#N | C26H25FN2O
